US05220018
B) 3-Amino-(1H-tetrazol-5-yl)benzene (2)
3-Nitro-(1H-tetrazol-5-yl)benzene was dissolved in 200 ml of ethanol, treated with 1.7 g of 10% palladium/carbon catalyst, and hydrogenated on a Parr apparatus at 30 psi for 2 hours. The reaction mixture was filtered through Celite and concentrated to give 4.7 g of the title compound.

reactant | 3-Nitro-(1H-tetrazol-5-yl)benzene | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=NN1 | C7H5N5O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 1.7 g | [Pd] | Pd
product | 3-Amino-(1H-tetrazol-5-yl)benzene | 4.7 g | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
